US08119805B2
Stage (i): (1-(2-Chloro-6-methylphenylsulfonyl)piperidin-2-yl)methanol
Piperidin-2-yl-methanol (17.39 mmol, 1 eq) was dissolved in methylene chloride (20 ml) and triethylamine (43.47 mmol, 2.5 eq) at 0° C. and a solution of 2-chloro-6-methyl-benzenesulfonyl chloride (17.39 mmol, 1 eq) in methylene chloride (65 ml) was added dropwise. The reaction solution was stirred at room temperature for 90 min. 0.5 M HCl (75 ml) was then added and the mixture was stirred for a further 15 min. The organic phase was washed with water (10 ml), dried over sodium sulfate and concentrated to dryness under reduced pressure. Yield: 90%

reactant | Piperidin-2-yl-methanol | 17.39 mmol, 1 eq | N1C(CCCC1)CO | C6H13NO
reactant | triethylamine | 43.47 mmol, 2.5 eq | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-6-methyl-benzenesulfonyl chloride | 17.39 mmol, 1 eq | ClC1=C(C(=CC=C1)C)S(=O)(=O)Cl | C7H6Cl2O2S
reactant | HCl | 0.5 M, 75 ml | Cl | ClH
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 65 ml | C(Cl)Cl | CH2Cl2
product | (1-(2-Chloro-6-methylphenylsulfonyl)piperidin-2-yl)methanol | Yield: 90% | ClC1=C(C(=CC=C1)C)S(=O)(=O)N1C(CCCC1)CO | C13H18ClNO3S
